US07582636B2
2-(4-tert-Butyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine:
2-Aminopyridine was converted to 1,2-diaminopyridinium iodide from a known literature method (J. Org. Chem., 31:260-265 (1996)). 1,2-Diaminopyridinium iodide (0.270 g, 1.1 mmol) was treated with 4-tert-butyl-benzoyl chloride (0.432 g, 2.2 mmol) in pyridine (2 mL). The reaction was heated at 85° C. in a sealed tube for 3 h, at which time the mixture was cooled to room temperature. The reaction was partitioned between ethyl acetate (50 mL) and water (50 mL). The ethyl acetate extract was dried over magnesium sulfate and concentrated. The crude material was purified by flash silica gel chromatography, eluting with 25% ethyl acetate/hexanes (Rf=0.4) to yield 0.205 g (74%) of the purified product. MS (ES) m/z 252.2; HPLC (Method B): r.t.=6.7 min., purity 100% at 210-370 nm, 100% at 254 nm. HRMS: calcd for C16H17N3+H+, 252.14952; found (ESI, [M+H]30 ), 252.149.

reactant | 2-Aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | 1,2-diaminopyridinium iodide | [I-].N[N+]1=C(C=CC=C1)N
reactant | 1,2-Diaminopyridinium iodide | 1.1 mmol, 0.270 g | [I-].N[N+]1=C(C=CC=C1)N
reactant | 4-tert-butyl-benzoyl chloride | 2.2 mmol, 0.432 g | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-tert-Butyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.205 g, 74% | C(C)(C)(C)C1=CC=C(C=C1)C1=NN2C(C=CC=C2)=N1 | C16H17N3
